US05234894
Preparation of 2-cyano-2-methyl-4-[4-(6-trifluoromethyl-2-quinoxalinyloxy)-phenoxy]-3-butanone (Compound No. 166)
2.20 Grams of a potassium salt of 2-cyano-2-methyl-4-(4-hydroxyphenoxy)-3-butanone and 1.69 g of 2-chloro-6-trifluoromethylquinoxaline were refluxed in 50 nl of N,N-dimethylformamide under heat at 100° C. for 4 hours. The reaction mixture was added to water, and after the mixture was subjected to extraction with chloroform, the extract was concentrated. The residue was separated and purified by column chromatography to give 1.67 g of a compound No. 166 which was a light yellow solid (melting point 113°-115° C.). The yield was 47.1%. The compound No. 166 was analyzed, and the results are shown in Tables 1 to 23.

reactant | potassium | [K] | K
reactant | 2-cyano-2-methyl-4-(4-hydroxyphenoxy)-3-butanone | C(#N)C(C)(C(COC1=CC=C(C=C1)O)=O)C | C12H13NO3
reactant | 2-chloro-6-trifluoromethylquinoxaline | 1.69 g | ClC1=NC2=CC=C(C=C2N=C1)C(F)(F)F | C9H4ClF3N2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 nl | CN(C=O)C | C3H7NO
product | 2-cyano-2-methyl-4-[4-(6-trifluoromethyl-2-quinoxalinyloxy)-phenoxy]-3-butanone | 1.67 g, yield was 47.1% | C(#N)C(C)(C(COC1=CC=C(C=C1)OC1=NC2=CC=C(C=C2N=C1)C(F)(F)F)=O)C | C21H16F3N3O3
